US04851519
1.4 g of 5-(2-chloroethyl)-2'-deoxyuridine and 1.3 g of triphenylphosphine were dissolved in 20 ml of dimethylformamide and stirred while 1.2 g of lithium azide were added to give a solution within 5 minutes at room temperature. 1.7 g of carbon tetrabromide were added portionwise during 5 minutes to give a hazy orange colored solution which was stirred at room temperature for 17 hours. 5 ml of methanol were added to give a clear solution. After 0.5 hour, the solvents were removed by evaporation under an oil pump vacuum to give a gum which was partitioned between 30 ml of ethyl acetate and 20 ml of water. The white solid which formed was removed by filtration to give 0.64 g of crude product of melting point 179°-182° C. (decomposition). This crude product was stirred with methanol and then removed by filtration to give 0.48 g of pure 5'-azido-2',5'-dideoxy-5-(2-chloroethyl)-uridine of melting point 197°-199° C. (decomposition).

reactant | 5-(2-chloroethyl)-2'-deoxyuridine | 1.4 g | ClCCC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C11H15ClN2O5
reactant | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium azide | 1.2 g | [N-]=[N+]=[N-].[Li+]
reactant | carbon tetrabromide | 1.7 g | C(Br)(Br)(Br)Br | CBr4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 5'-azido-2',5'-dideoxy-5-(2-chloroethyl)-uridine | 0.48 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CCCl)O | C11H14ClN5O4
